US08809372B2
Step 4: 5-(5-Acetylthiophen-2-yl)-1-methylpyridin-2(1H)-one
To a solution of 5-bromo-1-methylpyridin-2(1H)-one (0.2 g, 1.06 mmol) in 1,4-dioxane (5 mL) and water (2 mL), (5-acetylthiophen-2-yl)boronic acid (0.2 g, 1.27 mmol), tetrabutyl ammonium bromide (0.034 g, 0.16 mmol), K2CO3 (0.4 mL, 3.19 mmol) and Pd(PPh3)2Cl2 (0.18 g, 1.59 mmol) were added under argon. The mixture was purged with argon for 10 min and heated to 100° C. for 1 h. The reaction mixture was filtered through Celite® reagent, the filtrate concentrated, the residue extracted with EtOAc (2×100 mL), and washed with water (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by Biotage IsoleraOne® column purifier (80% ethyl acetate in hexane) and obtained as yellow viscous liquid (0.15 g, 62% yield). 1H NMR (400 MHz, CDCl3): δ 7.69-7.58 (m, 3H), 7.08 (d, 1H), 6.65 (d, 1H), 3.61 (s, 3H), 2.54 (s, 3H); LC-MS m/z calculated for [M+1-1]+234.05, found 234.1.

reactant | 5-bromo-1-methylpyridin-2(1H)-one | 1.06 mmol, 0.2 g | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | (5-acetylthiophen-2-yl)boronic acid | 1.27 mmol, 0.2 g | C(C)(=O)C1=CC=C(S1)B(O)O | C6H7BO3S
reactant | K2CO3 | 3.19 mmol, 0.4 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | tetrabutyl ammonium bromide | 0.16 mmol, 0.034 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(PPh3)2Cl2 | 1.59 mmol, 0.18 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(5-Acetylthiophen-2-yl)-1-methylpyridin-2(1H)-one | 0.15 g, 62% yield | C(C)(=O)C1=CC=C(S1)C=1C=CC(N(C1)C)=O | C12H11NO2S
